US06043196
N-[(4-Chlorodifluoromethyl-6-methoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-nitrobenzenesulfonamide
A solution of 4.2 g of 2-amino-4-chlorodifluoromethyl-6-methoxy-1,3,5-triazine (20 mmol) in 20 ml of methylene chloride was treated at 25° C. with a solution of 4.6 g of 2-nitrobenzenesulfonyl isocyanate (20 mmol) in 5 ml of methylene chloride. The mixture was subsequently stirred at 25° C. for 16 h, and the deposited product was filtered off with suction, washed with a little ether and dried at 40° C. in a water-jet vacuum. 3.1 g of the title compound (35% of theory) of m.p. 181° C. were thus obtained.

reactant | 2-amino-4-chlorodifluoromethyl-6-methoxy-1,3,5-triazine | 20 mmol, 4.2 g | NC1N(C(=NC(=N1)Cl)OC)C(F)F | C5H7ClF2N4O
reactant | 2-nitrobenzenesulfonyl isocyanate | 20 mmol, 4.6 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4N2O5S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-Chlorodifluoromethyl-6-methoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-nitrobenzenesulfonamide | 3.1 g, 35% | ClC1=NC(N(C(=N1)OC)C(F)F)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C12H11ClF2N6O6S
